US08049015B2
[5-(2-Formyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester and ethylamine (2M in MeOH) were reacted as described in Example 8, Step 1 to provide [5(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester.

reactant | [5-(2-Formyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C16H12F3NO3
reactant | ethylamine | 2M | C(C)N | C2H7N
product | [5(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C18H19F3N2O2
